US07754727B2
E. (3R,4R)-4-Biphenyl-3-yl-3-[2-(3-methoxy-propoxy)-4-methyl-benzyloxy]-piperidine
To a solution of the title D compound, (3R,4R)-4-biphenyl-3-yl-3-[2-(3-methoxy-propoxy)-4-methyl-benzyloxy]-piperidine-1-carboxylic acid ethyl ester (50 mg, 0.95 mmol) in 2 mL of absolute ethanol is added 2 mL of a 10% aqueous solution of sodium hydroxide. The resulting mixture is heated at 170° C. for 45 min in a microwave. The solvent is removed under reduced pressure and the resulting aqueous suspension is extracted twice with methylene chloride. The combined organic layers are dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by preparative HPLC (Macherey-Nagel 250/4 nucleosil 100-10 C18 column, 20:80 CH3CN+0.1% TFA over 11 min, then 100% CH3CN+0.1% TFA for 5.5 min, 40 mL/min). To the combined fractions containing the desired product is added 1M aqueous sodium carbonate solution and the acetonitrile is removed under reduced pressure. The resulting aqueous suspension is extracted twice with ethyl acetate. The combined organic layers are dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure affording the title compound as a colorless oil. A solution of the compound in acetonitrile is lyophilized. MS 446.1 [M+H]. Rt (HPLC, Nucleosil C18, 10:90-100:0 CH3CN/H2O+0.1% TFA within 5 min, then 100% CH3CN+0.1% TFA): 5.48 min.

reactant | (3R,4R)-4-biphenyl-3-yl-3-[2-(3-methoxy-propoxy)-4-methyl-benzyloxy]-piperidine-1-carboxylic acid ethyl ester | 0.95 mmol, 50 mg | C(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC=CC=C1)OCC1=C(C=C(C=C1)C)OCCCOC | C32H39NO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (3R,4R)-4-Biphenyl-3-yl-3-[2-(3-methoxy-propoxy)-4-methyl-benzyloxy]-piperidine | C1(=CC(=CC=C1)[C@@H]1[C@H](CNCC1)OCC1=C(C=C(C=C1)C)OCCCOC)C1=CC=CC=C1 | C29H35NO3
